* C:\sandbox\spicelib_main\examples\testfiles\testfile.asc
V1 in 0 PULSE(-1 1 1u 1n 1n 2m 1m 1)
R1 out in {res}
C1 out 0 {cap}
C2 out in {cap}
.tran 3
.param cap=1n res=1k
.step dec param cap 1p 10u 1
.savebias ../examples/testfiles/sim_loadbias_2.txt internal time=2
.loadbias ../examples/testfiles/sim_loadbias_2.txt
.savebias ../examples/testfiles/sim_loadbias_5.txt internal time=3
.loadbias ../examples/testfiles/sim_loadbias_5.txt
.savebias ../examples/testfiles/sim_loadbias_8.txt internal time=3
.backanno
.end
